US08003649B2
Di-tert-butyl dicarbonate (5.29 ml, 23.0 mmol) in DCM (50 mL) was added dropwise to a ice-cooled mixture of 6,6-difluoro-1,4-diazepane (3.6 g, 26.4 mmol, obtained as described in Synthesis, 2003, 223) and DIPEA (2.30 mL, 13.2 mmol) in DCM (100 mL). The resulting mixture was stirred at room temperature for 15 hours. The mixture was concentrated to dryness and diluted with water and ethyl acetate. Insoluble material was removed by filtration and the organic phase was separated, washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography on silica gel eluting with 0 to 4% methanol in DCM. Product-containing fractions were concentrated to afford tert-butyl 6,6-difluoro-1,4-diazepane-1-carboxylate (3.45 g, 55.2%) as a white solid. 1H NMR (500 MHz, CDCl3) δ 1.47 (s, 9H), 2.90-3.00 (m, 2H), 3.05-3.15 (m, 2H), 3.41-3.54 (m, 2H), 3.78-3.94 (m, 2H).

reactant | Di-tert-butyl dicarbonate | 23.0 mmol, 5.29 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6,6-difluoro-1,4-diazepane | 26.4 mmol, 3.6 g | FC1(CNCCNC1)F | C5H10F2N2
reactant | DIPEA | 13.2 mmol, 2.30 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 6,6-difluoro-1,4-diazepane-1-carboxylate | 3.45 g, 55.2% | FC1(CNCCN(C1)C(=O)OC(C)(C)C)F | C10H18F2N2O2
